US07868001B2
Raney-Ni (cat.) and NH3.H2O (4˜5 drops) were added to the solution of 3-(imidazo[1,2-b]pyridazin-2-yl)benzonitrile (25 mg) in MeOH. The mixture was stirred vigorously at room temperature for 1 h under hydrogen and the Raney-Ni was then removed. The filtration was concentrated in vacuo to give the (3-(imidazo[1,2-b]pyridazin-2-yl)phenyl)methanamine.

reactant | 3-(imidazo[1,2-b]pyridazin-2-yl)benzonitrile | 25 mg | N=1C(=CN2N=CC=CC21)C=2C=C(C#N)C=CC2 | C13H8N4
catalyst | NH3.H2O | 4˜5 drops | N.O
solvent | MeOH | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | (3-(imidazo[1,2-b]pyridazin-2-yl)phenyl)methanamine | N=1C(=CN2N=CC=CC21)C=2C=C(C=CC2)CN | C13H12N4
